** Name: SimpleTwoStageOpAmp_SimpleOpAmp38_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp38_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=3e-6 W=12e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=157e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=11e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=26e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=77e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=403e-6
mNormalTransistorNmos8 out ibias SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=3e-6 W=241e-6
mNormalTransistorNmos9 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=97e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=197e-6
mNormalTransistorNmos11 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=97e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=11e-6
mNormalTransistorNmos13 SecondStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=600e-6
mNormalTransistorNmos14 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=157e-6
mNormalTransistorPmos15 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=595e-6
mNormalTransistorPmos16 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=76e-6
mNormalTransistorPmos17 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=524e-6
mNormalTransistorPmos18 FirstStageYinnerSourceLoad1 inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=76e-6
mNormalTransistorPmos19 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=2e-6 W=49e-6
mNormalTransistorPmos20 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=2e-6 W=49e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 7.80001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp38_8

** Expected Performance Values: 
** Gain: 106 dB
** Power consumption: 8.65901 mW
** Area: 7474 (mu_m)^2
** Transit frequency: 8.32601 MHz
** Transit frequency with error factor: 8.32305 MHz
** Slew rate: 7.84746 V/mu_s
** Phase margin: 65.3172°
** CMRR: 105 dB
** negPSRR: 121 dB
** posPSRR: 106 dB
** VoutMax: 4.81001 V
** VoutMin: 0.800001 V
** VcmMax: 5.14001 V
** VcmMin: 1.47001 V


** Expected Currents: 
** NormalTransistorNmos: 129.294 muA
** NormalTransistorNmos: 263.988 muA
** NormalTransistorPmos: -866.708 muA
** NormalTransistorPmos: -30.7929 muA
** NormalTransistorPmos: -30.7939 muA
** NormalTransistorPmos: -30.7929 muA
** NormalTransistorPmos: -30.7939 muA
** NormalTransistorNmos: 61.5831 muA
** DiodeTransistorNmos: 61.5821 muA
** NormalTransistorNmos: 30.7921 muA
** NormalTransistorNmos: 30.7921 muA
** NormalTransistorNmos: 400.319 muA
** NormalTransistorNmos: 400.318 muA
** NormalTransistorPmos: -400.318 muA
** DiodeTransistorNmos: 866.709 muA
** NormalTransistorNmos: 866.708 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -129.293 muA
** DiodeTransistorPmos: -263.987 muA


** Expected Voltages: 
** ibias: 1.13401  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 4.24101  V
** outInputVoltageBiasXXnXX1: 1.32201  V
** outSourceVoltageBiasXXnXX1: 0.661001  V
** outSourceVoltageBiasXXnXX2: 0.558001  V
** outVoltageBiasXXpXX0: 4.13101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.17101  V
** innerTransistorStack1Load1: 4.40001  V
** innerTransistorStack2Load1: 4.40001  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.486001  V
** inner: 0.661001  V


.END