** Name: SimpleTwoStageOpAmp_SimpleOpAmp43_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp43_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=8e-6 W=307e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=163e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos4 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=5e-6 W=156e-6
mNormalTransistorNmos5 out outFirstStage sourceNmos sourceNmos nmos4 L=7e-6 W=150e-6
mNormalTransistorNmos6 outFirstStage inputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=8e-6 W=107e-6
mNormalTransistorNmos7 FirstStageYout1 inputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=8e-6 W=107e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=86e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=86e-6
mNormalTransistorPmos10 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=72e-6
mNormalTransistorPmos11 out ibias sourcePmos sourcePmos pmos4 L=2e-6 W=555e-6
mNormalTransistorPmos12 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=5e-6 W=156e-6
mNormalTransistorPmos13 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=8e-6 W=20e-6
mNormalTransistorPmos14 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=8e-6 W=20e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=26e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp43_1

** Expected Performance Values: 
** Gain: 73 dB
** Power consumption: 3.63001 mW
** Area: 11104 (mu_m)^2
** Transit frequency: 3.26901 MHz
** Transit frequency with error factor: 3.26233 MHz
** Slew rate: 10.9682 V/mu_s
** Phase margin: 67.0361°
** CMRR: 92 dB
** VoutMax: 4.66001 V
** VoutMin: 0.560001 V
** VcmMax: 3.56001 V
** VcmMin: -0.359999 V


** Expected Currents: 
** NormalTransistorPmos: -73.3609 muA
** NormalTransistorNmos: 25.4751 muA
** NormalTransistorNmos: 38.7201 muA
** NormalTransistorNmos: 25.4751 muA
** NormalTransistorNmos: 38.7201 muA
** DiodeTransistorPmos: -25.4759 muA
** NormalTransistorPmos: -25.4759 muA
** NormalTransistorPmos: -26.4909 muA
** NormalTransistorPmos: -13.2459 muA
** NormalTransistorPmos: -13.2459 muA
** NormalTransistorNmos: 555.2 muA
** NormalTransistorPmos: -555.199 muA
** DiodeTransistorNmos: 73.3601 muA
** DiodeTransistorNmos: 73.3591 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.10001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.16601  V
** out: 2.5  V
** outFirstStage: 0.961001  V
** outSourceVoltageBiasXXnXX1: 0.611001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 4.22201  V
** sourceGCC1: 0.611001  V
** sourceGCC2: 0.611001  V
** sourceTransconductance: 3.60601  V


.END