** Name: SimpleTwoStageOpAmp_SimpleOpAmp43_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp43_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=5e-6 W=8e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=26e-6
mDiodeTransistorPmos3 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=6e-6 W=9e-6
mDiodeTransistorPmos4 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=6e-6 W=581e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=127e-6
mDiodeTransistorPmos6 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=8e-6 W=48e-6
mNormalTransistorNmos7 out outFirstStage sourceNmos sourceNmos nmos4 L=3e-6 W=69e-6
mNormalTransistorNmos8 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=5e-6 W=10e-6
mNormalTransistorNmos9 outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=30e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=224e-6
mNormalTransistorNmos11 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=5e-6 W=10e-6
mNormalTransistorNmos12 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=62e-6
mNormalTransistorNmos13 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=62e-6
mNormalTransistorPmos14 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=6e-6 W=581e-6
mNormalTransistorPmos15 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=8e-6 W=48e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=169e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=169e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=24e-6
mNormalTransistorPmos19 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=6e-6 W=9e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp43_5

** Expected Performance Values: 
** Gain: 89 dB
** Power consumption: 4.48801 mW
** Area: 13746 (mu_m)^2
** Transit frequency: 6.73601 MHz
** Transit frequency with error factor: 6.72906 MHz
** Slew rate: 6.82294 V/mu_s
** Phase margin: 65.8902°
** CMRR: 98 dB
** VoutMax: 3.12001 V
** VoutMin: 0.620001 V
** VcmMax: 4.08001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 11.4891 muA
** NormalTransistorNmos: 85.3891 muA
** NormalTransistorNmos: 15.6961 muA
** NormalTransistorNmos: 23.6181 muA
** NormalTransistorNmos: 15.6961 muA
** NormalTransistorNmos: 23.6181 muA
** DiodeTransistorPmos: -15.6969 muA
** NormalTransistorPmos: -15.6969 muA
** NormalTransistorPmos: -15.8469 muA
** NormalTransistorPmos: -7.92299 muA
** NormalTransistorPmos: -7.92299 muA
** NormalTransistorNmos: 743.391 muA
** NormalTransistorPmos: -743.39 muA
** DiodeTransistorPmos: -743.391 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -11.4899 muA
** NormalTransistorPmos: -11.4909 muA
** DiodeTransistorPmos: -85.3899 muA


** Expected Voltages: 
** ibias: 1.23101  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 1.02601  V
** outInputVoltageBiasXXpXX1: 2.55601  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** outSourceVoltageBiasXXpXX1: 3.77801  V
** outVoltageBiasXXpXX2: 4.24301  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 4.05201  V
** sourceGCC1: 0.520001  V
** sourceGCC2: 0.520001  V
** sourceTransconductance: 3.22601  V
** inner: 3.77201  V


.END