** Name: SimpleTwoStageOpAmp_SimpleOpAmp43_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp43_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=11e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=3e-6 W=21e-6
mDiodeTransistorPmos4 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=6e-6 W=457e-6
mNormalTransistorNmos5 out inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=600e-6
mNormalTransistorNmos6 outFirstStage outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=110e-6
mNormalTransistorNmos7 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=110e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=115e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=115e-6
mNormalTransistorPmos10 inputVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos4 L=3e-6 W=73e-6
mNormalTransistorPmos11 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=598e-6
mNormalTransistorPmos12 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=6e-6 W=457e-6
mNormalTransistorPmos13 outVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=3e-6 W=542e-6
mNormalTransistorPmos14 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=164e-6
mNormalTransistorPmos15 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=164e-6
mNormalTransistorPmos16 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=3e-6 W=583e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 9.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp43_7

** Expected Performance Values: 
** Gain: 82 dB
** Power consumption: 14.9871 mW
** Area: 11466 (mu_m)^2
** Transit frequency: 15.3561 MHz
** Transit frequency with error factor: 15.3333 MHz
** Slew rate: 26.9116 V/mu_s
** Phase margin: 65.3172°
** CMRR: 91 dB
** VoutMax: 4.57001 V
** VoutMin: 0.190001 V
** VcmMax: 3.84001 V
** VcmMin: -0.369999 V


** Expected Currents: 
** NormalTransistorPmos: -258.652 muA
** NormalTransistorPmos: -35.0579 muA
** NormalTransistorNmos: 225.036 muA
** NormalTransistorNmos: 366.5 muA
** NormalTransistorNmos: 225.036 muA
** NormalTransistorNmos: 366.5 muA
** DiodeTransistorPmos: -225.035 muA
** NormalTransistorPmos: -225.035 muA
** NormalTransistorPmos: -282.925 muA
** NormalTransistorPmos: -141.462 muA
** NormalTransistorPmos: -141.462 muA
** NormalTransistorNmos: 1950.63 muA
** NormalTransistorPmos: -1950.62 muA
** DiodeTransistorNmos: 258.653 muA
** DiodeTransistorNmos: 35.0571 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.15201  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX2: 0.600001  V
** out: 2.5  V
** outFirstStage: 4.00701  V
** outVoltageBiasXXnXX1: 0.955001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 4.02801  V
** sourceGCC1: 0.395001  V
** sourceGCC2: 0.395001  V
** sourceTransconductance: 3.37401  V


.END