** Name: SimpleTwoStageOpAmp_SimpleOpAmp44_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp44_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=9e-6 W=10e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=47e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=4e-6 W=7e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=5e-6 W=10e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=4e-6 W=500e-6
mDiodeTransistorPmos6 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=6e-6 W=96e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=76e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=23e-6
mNormalTransistorNmos9 out outFirstStage sourceNmos sourceNmos nmos4 L=7e-6 W=210e-6
mNormalTransistorNmos10 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=9e-6 W=110e-6
mNormalTransistorNmos11 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=9e-6 W=110e-6
mNormalTransistorNmos12 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=182e-6
mNormalTransistorNmos13 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=182e-6
mNormalTransistorPmos14 out inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=4e-6 W=500e-6
mNormalTransistorPmos15 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=5e-6 W=25e-6
mNormalTransistorPmos16 FirstStageYout1 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=6e-6 W=96e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=7e-6 W=36e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=7e-6 W=36e-6
mNormalTransistorPmos19 FirstStageYsourceTransconductance inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=5e-6 W=63e-6
mNormalTransistorPmos20 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=4e-6 W=7e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp44_5

** Expected Performance Values: 
** Gain: 120 dB
** Power consumption: 6.35501 mW
** Area: 14332 (mu_m)^2
** Transit frequency: 3.55601 MHz
** Transit frequency with error factor: 3.55621 MHz
** Slew rate: 8.02434 V/mu_s
** Phase margin: 65.3172°
** CMRR: 125 dB
** VoutMax: 3 V
** VoutMin: 0.670001 V
** VcmMax: 3.66001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 16.0841 muA
** NormalTransistorNmos: 4.86801 muA
** NormalTransistorNmos: 23.2791 muA
** NormalTransistorNmos: 38.5161 muA
** NormalTransistorNmos: 23.2791 muA
** NormalTransistorNmos: 38.5161 muA
** NormalTransistorPmos: -23.2799 muA
** NormalTransistorPmos: -23.2799 muA
** DiodeTransistorPmos: -23.2799 muA
** NormalTransistorPmos: -30.4769 muA
** NormalTransistorPmos: -15.2379 muA
** NormalTransistorPmos: -15.2379 muA
** NormalTransistorNmos: 1162.97 muA
** NormalTransistorPmos: -1162.96 muA
** DiodeTransistorPmos: -1162.96 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -16.0849 muA
** NormalTransistorPmos: -16.0859 muA
** DiodeTransistorPmos: -4.86899 muA


** Expected Voltages: 
** ibias: 1.28501  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 2.43601  V
** inputVoltageBiasXXpXX2: 4.06701  V
** out: 2.5  V
** outFirstStage: 1.08001  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** outSourceVoltageBiasXXpXX1: 3.71801  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.15001  V
** out1: 3.07401  V
** sourceGCC1: 0.730001  V
** sourceGCC2: 0.730001  V
** sourceTransconductance: 3.47001  V
** inner: 3.71401  V


.END