** Name: SimpleTwoStageOpAmp_SimpleOpAmp44_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp44_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=67e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=184e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos4 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=6e-6 W=231e-6
mNormalTransistorNmos5 out inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=571e-6
mNormalTransistorNmos6 outFirstStage inputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=10e-6 W=136e-6
mNormalTransistorNmos7 FirstStageYout1 inputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=10e-6 W=136e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=16e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=16e-6
mNormalTransistorPmos10 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=159e-6
mNormalTransistorPmos11 inputVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=480e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=4e-6 W=597e-6
mNormalTransistorPmos13 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=8e-6 W=342e-6
mNormalTransistorPmos14 FirstStageYout1 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=6e-6 W=231e-6
mNormalTransistorPmos15 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=8e-6 W=39e-6
mNormalTransistorPmos16 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=8e-6 W=39e-6
mNormalTransistorPmos17 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=33e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.70001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp44_7

** Expected Performance Values: 
** Gain: 115 dB
** Power consumption: 11.3151 mW
** Area: 13379 (mu_m)^2
** Transit frequency: 3.17601 MHz
** Transit frequency with error factor: 3.17638 MHz
** Slew rate: 7.75823 V/mu_s
** Phase margin: 65.3172°
** CMRR: 136 dB
** VoutMax: 4.25 V
** VoutMin: 0.180001 V
** VcmMax: 3.76001 V
** VcmMin: -0.389999 V


** Expected Currents: 
** NormalTransistorPmos: -159.106 muA
** NormalTransistorPmos: -483.137 muA
** NormalTransistorNmos: 25.9031 muA
** NormalTransistorNmos: 42.6311 muA
** NormalTransistorNmos: 25.9031 muA
** NormalTransistorNmos: 42.6311 muA
** NormalTransistorPmos: -25.9039 muA
** NormalTransistorPmos: -25.9039 muA
** DiodeTransistorPmos: -25.9039 muA
** NormalTransistorPmos: -33.4569 muA
** NormalTransistorPmos: -16.7289 muA
** NormalTransistorPmos: -16.7289 muA
** NormalTransistorNmos: 1515.4 muA
** NormalTransistorPmos: -1515.39 muA
** DiodeTransistorNmos: 159.107 muA
** DiodeTransistorNmos: 483.138 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.19901  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.932001  V
** inputVoltageBiasXXnXX2: 0.582001  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.24101  V
** out1: 3.49201  V
** sourceGCC1: 0.377001  V
** sourceGCC2: 0.377001  V
** sourceTransconductance: 3.50101  V


.END